US06583150B1
3) Synthesis of 4-Acetamido-5,8-dimethoxyquinoline
A suspension of 3 g (14.7 mmol) of 4-amino-5,8-dimethoxyquinoline and of 0.72 g (5.88 mmol) of DMAP in 30 mL of acetic anhydride is stirred at ambient temperature for 24 hours. After concentrating on a rotary evaporator, the reaction medium is washed with 40 mL of saturated NaHCO3 solution and then extracted with CHCl3 (3 times 50 mL). The extracts are dried over MgSO4 and the solvent is evaporated off, followed by evaporation of the remaining acetic anhydride by azeotropic entrainment with benzene. 2.7 g of the expected derivative are obtained in the form of a yellow powder.

reactant | 4-amino-5,8-dimethoxyquinoline | 14.7 mmol, 3 g | NC1=CC=NC2=C(C=CC(=C12)OC)OC | C11H12N2O2
reactant | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 5.88 mmol, 0.72 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-Acetamido-5,8-dimethoxyquinoline | C(C)(=O)NC1=CC=NC2=C(C=CC(=C12)OC)OC | C13H14N2O3
